US08492582B2
Water (0.6 mL), sodium carbonate (47 mg), 3-thiopheneboronic acid (27 mg), and bis(triphenylphosphine)palladium(II) dichloride (2.5 mg) were added to an ethylene glycol dimethyl ether (2.0 mL) solution of tert-butyl 4-bromo-2-(5-phenylpyridine-3-carboxamido)benzoate (80 mg), followed by heating to reflux under a nitrogen atmosphere for 2 hours and 10 minutes. The reaction mixture was cooled to room temperature, and then ethyl acetate and a 10% aqueous solution of citric acid was added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 95-85% hexane/ethyl acetate] to obtain tert-butyl 2-(5-phenylpyridine-3-carboxamido)-4-(thiophen-3-yl)benzoate.

reactant | sodium carbonate | 47 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-thiopheneboronic acid | 27 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | tert-butyl 4-bromo-2-(5-phenylpyridine-3-carboxamido)benzoate | 80 mg | BrC1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C23H21BrN2O3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 2.5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethylene glycol dimethyl ether | 2.0 mL | COCCOC | C4H10O2
solvent | Water | 0.6 mL | O | H2O
product | tert-butyl 2-(5-phenylpyridine-3-carboxamido)-4-(thiophen-3-yl)benzoate | C1(=CC=CC=C1)C=1C=C(C=NC1)C(=O)NC1=C(C(=O)OC(C)(C)C)C=CC(=C1)C1=CSC=C1 | C27H24N2O3S
